US04595683
5-Methoxy-2-methyl-3-p-nitrophenoxy-2H-1,2,4,6-thiatriazine-1,1-dioxide
A solution of 3-chloro-5-methoxy-2-methyl-2H-1,2,4,6-thiatriazine-1,1-dioxide (48 g) in methylene chloride (25.5 ml) is added dropwise to a stirred mixture of p-nitrophenol (38 g) and triethylamine (55 g) in methylene chloride (1 l). The mixture is stirred at RT for about 12 hours, refluxed for about 31/2 hours, concentrated in vacuo, the residue is treated with sat'd aq. Na2CO3 solution, and the resulting insoluble solid filtered and washed with water and CH2Cl2. The solid is recrystallized from ethyl acetate/acetonitrile yielding the p-nitrophenoxy compound as a crystalline solid, M.P.=220°-221° C.

reactant | 3-chloro-5-methoxy-2-methyl-2H-1,2,4,6-thiatriazine-1,1-dioxide | 48 g | ClC=1N(S(N=C(N1)OC)(=O)=O)C | C4H6ClN3O3S
reactant | p-nitrophenol | 38 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | triethylamine | 55 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-2-methyl-3-p-nitrophenoxy-2H-1,2,4,6-thiatriazine-1,1-dioxide | COC=1N=C(N(S(N1)(=O)=O)C)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H10N4O6S
